US08084490B2
2-(2,3-Dihydro-benzo[1,4]dioxin-2-yl)-ethylsulfamide (Compound #16)
The crude 2-(2,3 dihydrobenzo[1,4]dioxin-2-yl)ethylamine in dioxane (100 mL) was combined with sulfamide (3.0 g, 31 mmol) and heated to reflux for 2 h. The solution was cooled and evaporated in vacuo to yield an orange solid, which was purified by column chromatography (DCM:MeOH—10:1) to yield a white solid. The solid was re-crystallized from DCM to yield the title compound as a solid.

reactant | 2-(2,3 dihydrobenzo[1,4]dioxin-2-yl)ethylamine | O1C(COC2=C1C=CC=C2)CCN | C10H13NO2
reactant | sulfamide | 31 mmol, 3.0 g | S(=O)(=O)(N)N | H4N2O2S
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 2-(2,3-Dihydro-benzo[1,4]dioxin-2-yl)-ethylsulfamide | O1C(COC2=C1C=CC=C2)CCNS(=O)(=O)N | C10H14N2O4S
